US07442713B2
c) 1-(4-Fluorophenyl)-2-pyridin-4-ylethane-1,2-dione-1-oxime
2-(4-Fluorophenyl)-1-(4-pyridinyl)ethanone (0.1 mol/25.2 g) was suspended in 330 ml of methanol. After addition of sodium acetate (0.44 mol/36.1 g) and hydroxylamine*HCl (0.32 mol/22.0 g), the reaction mixture was heated under reflux with stirring for 1 h. On cooling in an ice bath, the title compound was obtained as a white precipitate. The precipitate was filtered off, washed with H2O and dried over P2O5 under reduced pressure. Yield: 14.3 g (62%)

reactant | 2-(4-Fluorophenyl)-1-(4-pyridinyl)ethanone | 0.1 mol, 25.2 g | FC1=CC=C(C=C1)CC(=O)C1=CC=NC=C1 | C13H10FNO
reactant | sodium acetate | 0.44 mol, 36.1 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine | 0.32 mol, 22.0 g | NO | H3NO
solvent | methanol | 330 ml | CO | CH4O
product | 1-(4-Fluorophenyl)-2-pyridin-4-ylethane-1,2-dione-1-oxime | FC1=CC=C(C=C1)C(C(=O)C1=CC=NC=C1)=NO | C13H9FN2O2
